US07045658B2
iv) 3-(4-{[6-(Benzyl{(2R)-2-[4-(benzyloxy)-3-(formylamino)phenyl]-2-hydroxyethyl}amino)hexyl]oxy}but-1-ynyl)benzenesulfonamide
A stirred solution of 5-((1R)-2-{benzyl[6-(but-3-ynyloxy)hexyl]amino}-1-hydroxyethyl)-2-(benzyloxy)phenylformamide (500 mg) and 3-iodobenzenesulfonamide (340 mg) in acetonitrile (10 ml) and triethylamine (10 ml) with cuprous iodide (50 mg) and bis(triphenylphosphine) palladium dichloride (100 mg) was stirred at ambient temperature under nitrogen for 2 h. The mixture was evaporated in vacuo and the residue was purified by chromatography on Biotage (40 g) cartridge eluting with light petroleum 40-600/ethyl acetate (9:1) to give the title compound (330 mg). LCMS RT=3.04 min.

reactant | 5-((1R)-2-{benzyl[6-(but-3-ynyloxy)hexyl]amino}-1-hydroxyethyl)-2-(benzyloxy)phenylformamide | 500 mg | C(C1=CC=CC=C1)N(C[C@H](O)C=1C=CC(=C(C1)NC=O)OCC1=CC=CC=C1)CCCCCCOCCC#C | C33H40N2O4
reactant | 3-iodobenzenesulfonamide | 340 mg | IC=1C=C(C=CC1)S(=O)(=O)N | C6H6INO2S
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine) palladium dichloride | 100 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-(4-{[6-(Benzyl{(2R)-2-[4-(benzyloxy)-3-(formylamino)phenyl]-2-hydroxyethyl}amino)hexyl]oxy}but-1-ynyl)benzenesulfonamide | 330 mg | C(C1=CC=CC=C1)N(CCCCCCOCCC#CC=1C=C(C=CC1)S(=O)(=O)N)C[C@H](O)C1=CC(=C(C=C1)OCC1=CC=CC=C1)NC=O | C39H45N3O6S
